reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[C:2]([C:3](=[O:4])[H:8])([H:6])([H:7])[H:9].[O:1]([H:5])[H:10],70.4723798239946
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[C:4](\[O:5][H:12])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10],78.5762649114147
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:6](=[C:5])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],51.5780710228512
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]([C:5](=[O:6])[H:15])([H:14])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],78.1942762456855
[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])=[C:6]([H:18])[H:19])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][H:20],108.141213850155
[C:1]([C:2](=[C:3]=[C:4]=[C:5]=[N:6][H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],62.48500319164422
[C:1]1([H:8])([H:10])[C:2]2([C:3]([H:11])([H:12])[C:4]2([H:13])[H:14])[O:5][C@:6]1([O:7][H:9])[H:15]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],70.840871154131
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([N+:6]#[C-:5])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],39.1066975009176
[O:1]([C:2](=[C:3]=[N+:4]=[N-:5])[H:6])[H:7]>>[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6],30.670191216119502
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[N:2](=[C:3]=[N:4][H:11])[C:5](=[O:6])[H:12],97.96221936909159
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:2](\[O+:3]=[C-:4][O:5][H:9])[C:6](=[O:7])[H:10])\[H:8],77.431470825121
[C:1]([C:2]([C:3]([C:4](=[O:5])[O+:7]=[C-:6][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],12.230137688433302
[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](=[O:5])=[C:6]([O:7][H:10])[H:11]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],25.2302467847906
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([H:10])[H:14])([H:7])([H:8])[H:9].[C:5]([O:6][H:16])[H:15]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],19.702265407394805
[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C:3]([C:4]([C:5]([H:13])([H:14])[H:15])=[O:6])([H:10])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],91.19786642659315
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[N:1](=[C:2](/[O:5]/[C:4](=[N:3]/[H:8])[H:9])[H:7])\[H:6],59.1711305450942
[C:1]([O:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6]>>[C-:1]([O+:2]=[C:3]([H:7])[H:9])([H:5])[H:6].[H:4][H:8],84.2761516683803
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])([H:10])[H:12])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:13],88.6463157826137
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:18])([H:8])([H:9])[H:10].[C:3]1([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([O:6][C:7]([H:19])([H:20])[H:21])[H:17],115.576519046348
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13])[H:7]>>[C:2]1[C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13].[O:1]([H:7])[H:8],79.67942399649671
[C:1]([O:2]/[C:3](=[C:4](\[C:5]([H:14])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:12])[H:17]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],43.522443881518896
[C:1]([N:2]1[C:4]([H:13])([H:14])[C@:5]1([O:6][C:3]([H:10])([H:11])[H:12])[H:15])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],70.85161588748761
[C:1]([C@:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:11])[H:13])([C:6](=[O:7])[H:19])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],83.89742431839494
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[C-:3]#[O+:4].[O:1](/[C:2](=[C:5](\[O:6][H:9])[H:10])[H:8])[H:7],43.359201211461716
